US05157041
In a manner analogous to that described in Example 21, from 249 mg of N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester, 94 mg of hydrocinnamoyl chloride and 72 mg of diisopropylethylamine there were obtained 214 mg of N-[3(S)-[(N-hydrocinnamoyl-L-asparaginyl)amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester as a white solid (from ethyl acetate/n-hexane); MS: m/e 581 [M+H]+.

reactant | N-[3(S)-[[L-asparaginyl]amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 249 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](N)CC(N)=O)=O)O)=O | C23H36N4O5
reactant | hydrocinnamoyl chloride | 94 mg | C(CCC1=CC=CC=C1)(=O)Cl | C9H9ClO
reactant | diisopropylethylamine | 72 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | N-[3(S)-[(N-hydrocinnamoyl-L-asparaginyl)amino]-2(R)-hydroxy-4-phenylbutyl]-L-proline tert.butyl ester | 214 mg | C(C)(C)(C)OC([C@H]1N(CCC1)C[C@H]([C@H](CC1=CC=CC=C1)NC([C@@H](NC(CCC1=CC=CC=C1)=O)CC(N)=O)=O)O)=O | C32H44N4O6
